US07585885B2
2-Chloro-6-(methylpropylamino)-isonicotinic acid methyl ester
Mix 2,6-dichloro-isonicotinic acid methyl ester (5 g, 24.2 mmol), methylpropyl-amine (3.2 g, 23.06 mmol), cesium carbonate (10 g, 31.2 mmol), racemic-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (1.5 g, 2.43 mmol), and palladium acetate (0.27 g, 1.21 mmol) in toluene (50 mL). Degas with argon, seal the vessel and heat at 80° C. for 16 h. Cool to room temperature and dilute with diethyl ether (50 mL). Filter through a filtering agent, concentrate, and purify (silica gel chromatography, eluting with 0:100 to 20:80 ethyl acetate:hexanes to give the title compound as an oil (795 mg, 13.5%).

reactant | 2,6-dichloro-isonicotinic acid methyl ester | 24.2 mmol, 5 g | COC(C1=CC(=NC(=C1)Cl)Cl)=O | C7H5Cl2NO2
reactant | methylpropyl-amine | 23.06 mmol, 3.2 g | CNCCC | C4H11N
reactant | cesium carbonate | 31.2 mmol, 10 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | racemic-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 2.43 mmol, 1.5 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 1.21 mmol, 0.27 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-Chloro-6-(methylpropylamino)-isonicotinic acid methyl ester | 795 mg, 13.5% | COC(C1=CC(=NC(=C1)N(CCC)C)Cl)=O | C11H15ClN2O2
